US04564613
1-(2-Pyrrolin-1-yl)-8-methyl-6-phenyl-2,3,6,7,8,9-hexahydro-1H-pyrido[4,3-g]indole
A solution of 1.9 ml (0.02 mol) of phosphorus oxychloride in 6 ml of toluene is added dropwise to a solution of 3.4 g (0.04 mol) of pyrrolid-2-one in 8 ml of toluene at a temperature between 2° and 0° C., with stirring and cooling. The mixture is stirred at room temperature for 11/2 hours and left to stand overnight. A solution of 5.2 g (0.02 mol) of 8-methyl-6-phenyl-2,3,6,7,8,9-hexahydro-1H-pyrido[4,3-g]indole in 10 ml of toluene and 20 ml of CH2Cl2 is then added. The CH2Cl2 is distilled off and the reaction mixture is stirred at a temperature between 75° and 80° C. for 8 hours, with stirring. The solid which has precipitated is filtered off with suction, and 2N NaOH and H2O are added in order to convert it into the free base. The aqueous phase is extracted with CH2Cl2, the CH2Cl2 phase is dried and the solvent is removed. The residue is chromatographed on silica gel 60 from E. Merck, Darmstadt) using an eluent mixture of CH2Cl2 /MeOH (2:1), and on aluminum oxide (aluminum oxide 90 from E. Merck, Darmstadt) using an eluent mixture of CH2Cl2 and MeOH (20:0.25). The product is dried in a desiccator over P2O5 under a water pump vacuum.

reactant | phosphorus oxychloride | 0.02 mol, 1.9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | pyrrolid-2-one | 0.04 mol, 3.4 g | N1C(CCC1)=O | C4H7NO
reactant | 8-methyl-6-phenyl-2,3,6,7,8,9-hexahydro-1H-pyrido[4,3-g]indole | 0.02 mol, 5.2 g | CN1CC=2C(=CC=C3CCNC23)C(C1)C1=CC=CC=C1 | C18H20N2
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-Pyrrolin-1-yl)-8-methyl-6-phenyl-2,3,6,7,8,9-hexahydro-1H-pyrido[4,3-g]indole | N1(C=CCC1)N1CCC2=CC=C3C(=C12)CN(CC3C3=CC=CC=C3)C | C22H25N3
